US20010029256A1
3-(4-[2-(6,11-Dihydrodibenzo[b,e]thiepin-11-yloxy)-ethoxy]-phenyl)-2-ethoxy-propionic acid ethyl ester
Under a nitrogen atmosphere, 2-(6,11-dihydrodibenzo[b,e]thiepin-11-yloxy)-ethanol (340 mg, 1.25 mmol), tributylphosphine (280 mg, 1.37 mmol) and 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (330 mg, 1.37 mmol) were successively dissolved in dry benzene (10 mL). Solid azodicarboxylic dipiperidine (ADDP) (350 mg, 1.37 mmol) was added under stirring at 0° C. to the solution. After 10 min, the reaction mixture was brought to room temperature and the stirring was continued for 16 h. Heptane (10 mL) was added to the reaction mixture and dihydro-ADDP separated out was filtered off. After evaporation of the solvent the product was purified chromatography eluting with ethyl acetate/heptane (1:4) to give 460 mg (75%) of the title compound: 1H NMR (300 MHz, CDCl3) δ1.15 (t, 3H), 1.25 (t, 3H), 2.95 (d, 2H), 3.30-3.40 (m, 1H), 3.55-3.65 (m, 1H), 2.85 (t, 2H), 3.95 (t, 1H), 4.10-4.22 (m, 4H), 4.5-5.1 (bs, 1H), 5.60-5.75 (bs, 1H), 6.82,(d, 2H), 7.05-7.50 (m, 10H).

reactant | 2-(6,11-dihydrodibenzo[b,e]thiepin-11-yloxy)-ethanol | 1.25 mmol, 340 mg | C1=CC=CC=2SCC3=C(C(C21)OCCO)C=CC=C3 | C16H16O2S
reactant | tributylphosphine | 1.37 mmol, 280 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.37 mmol, 330 mg | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | ADDP | 1.37 mmol, 350 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | Heptane | 10 mL | CCCCCCC | C7H16
product | 3-(4-[2-(6,11-Dihydrodibenzo[b,e]thiepin-11-yloxy)-ethoxy]-phenyl)-2-ethoxy-propionic acid ethyl ester | 460 mg, 75% | C(C)OC(C(CC1=CC=C(C=C1)OCCOC1C2=C(SCC3=C1C=CC=C3)C=CC=C2)OCC)=O | C29H32O5S
